US07439393B2
ii) N-[3-({2-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-N′-[3-(phenylethynyl)phenyl]urea
A solution of N-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-N′-(3-iodophenyl)urea (393 mg) and phenylacetylene (77 mg) in DMF (6 ml) was treated with diisopropylethylamine (5 ml) and nitrogen was passed through the solution for 5 min. Copper (I) iodide (10 mg) and dichlorobis(triphenylphosphine)palladium(II) (47 mg) were added and the mixture was stirred under nitrogen at 20° for 21.5 h. The solvent was evaporated in vacuo and EtOAc (15 ml) was added. The supernatant solution was collected and the solvent evaporated in vacuo to give a residue which was purified by Biotage. Elution with dichloromethane-ethanol-ammonia (325:8:1) gave the title compound (328 mg). LCMS RT=3.93 min, ES+ve 718 (MH)+.

reactant | N-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-N′-(3-iodophenyl)urea | 393 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC=2C=C(C=CC2)NC(=O)NC2=CC(=CC=C2)I)C | C35H42IN3O7
reactant | phenylacetylene | 77 mg | C1(=CC=CC=C1)C#C | C8H6
reactant | diisopropylethylamine | 5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
catalyst | Copper (I) iodide | 10 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 47 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-[3-({2-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-N′-[3-(phenylethynyl)phenyl]urea | 328 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC=2C=C(C=CC2)NC(=O)NC2=CC(=CC=C2)C#CC2=CC=CC=C2)C | C43H47N3O7
